US08420695B2
2-[(4-acetylphenyl)amino]-5-[2,6-difluoro-4-(1-hydroxy-1-methylethyl)phenyl]thiophene-3-carboxamide was prepared according to the general procedure in Example 1 using 2-amino-5-[2,6-difluoro-4-(1-hydroxy-1-methylethyl)phenyl]thiophene-3-carboxamide (0.2 g, 0.640 mmol) and 1-(4-bromophenyl)ethanone (0.127 g, 0.640 mmol) as the starting materials.

reactant | 2-amino-5-[2,6-difluoro-4-(1-hydroxy-1-methylethyl)phenyl]thiophene-3-carboxamide | 0.640 mmol, 0.2 g | NC=1SC(=CC1C(=O)N)C1=C(C=C(C=C1F)C(C)(C)O)F | C14H14F2N2O2S
reactant | 1-(4-bromophenyl)ethanone | 0.640 mmol, 0.127 g | BrC1=CC=C(C=C1)C(C)=O | C8H7BrO
product | 2-[(4-acetylphenyl)amino]-5-[2,6-difluoro-4-(1-hydroxy-1-methylethyl)phenyl]thiophene-3-carboxamide | C(C)(=O)C1=CC=C(C=C1)NC=1SC(=CC1C(=O)N)C1=C(C=C(C=C1F)C(C)(C)O)F | C22H20F2N2O3S
